US07807840B2
Lithium aluminum hydride (5.47 g) was added to tetrahydrofuran (144 mL) with stirring at 4° C. and then stirred under ice-cooling for 15 minutes. A solution of (R)—N-propionylnorvaline methyl ester (15.87 g) in tetrahydrofuran (85 mL) was added dropwise to the resulting suspension over 70 minutes under stirring at 4° C. and then stirred for 15 minutes under ice-cooling. The suspension was refluxed and stirred for 2 hours and then stirred under ice-cooling for 20 minutes, and an aqueous solution (25 mL) of 1 mol/L sodium hydroxide was added dropwise thereto over 12 minutes and stirred under ice-cooling for 5 minutes. The suspension was refluxed and stirred for 1 hour. The suspension was filtered and washed with ethyl acetate (23 mL). The insoluble matter was subsequently washed twice with hot ethyl acetate (115 mL). The filtrate and the washings were combined and dried over anhydrous sodium sulfate for 12 hours and then concentrated under reduced pressure to give (R)—N-propylnorvalinol (11.97 g, 97% yield) as a yellow oil.

reactant | Lithium aluminum hydride | 5.47 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (R)—N-propionylnorvaline methyl ester | 15.87 g | COC([C@H](NC(CC)=O)CCC)=O | C9H17NO3
reactant | sodium hydroxide | 1 mol/L, 25 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 85 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 144 mL | O1CCCC1 | C4H8O
product | (R)—N-propylnorvalinol | 11.97 g, 97% yield | C(CC)N[C@H](CCC)CO | C8H19NO
